US07745475B2
3-[((1S)-2-{[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-N-(1-ethyl-1H-pyrazol-3-yl)-5-[(phenylmethyl)oxy]benzamide
DIPEA (3.11 mL, 18.03 mmol) was added to a solution of 3-{(phenylmethyl)oxy}-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid (3.00 g, 7.21 mmol), HATU (3.41 g, 9.01 mmol) and 1-ethyl-1H-pyrazol-3-amine [Chem. Heterocycl. Compd. (Engl. Transl.), 11, 1975, 212] (1.20 g, 10.8 mmol) in DMF (10 mL). The resulting mixture was stirred at ambient temperature for 3 hours. The DMF was removed in vacuo. The solvent was evaporated and the residue was dissolved in 5% w/v citric acid (50 mL), ethyl acetate (30 mL) and diethyl ether (30 mL) and the organic layer was further washed with sat. aqueous NaHCO3 (30 mL) and brine (30 mL). The organic layer was separated, then dried (MgSO4), filtered and evaporated. Purification by column chromatography, eluting with 1:5 to 1:2 ethyl acetate:hexanes, afforded the title compound as a colourless oil (2.40 g, 65%).

reactant | DIPEA | 18.03 mmol, 3.11 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-{(phenylmethyl)oxy}-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid | 7.21 mmol, 3.00 g | C1(=CC=CC=C1)COC=1C=C(C(=O)O)C=C(C1)O[C@H](CO[Si](C)(C)C(C)(C)C)C | C23H32O5Si
reactant | HATU | 9.01 mmol, 3.41 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-ethyl-1H-pyrazol-3-amine | 10.8 mmol, 1.20 g | C(C)N1N=C(C=C1)N | C5H9N3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-[((1S)-2-{[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-N-(1-ethyl-1H-pyrazol-3-yl)-5-[(phenylmethyl)oxy]benzamide | 2.40 g, 65% | CC(C)(C)[Si](OC[C@H](C)OC=1C=C(C(=O)NC2=NN(C=C2)CC)C=C(C1)OCC1=CC=CC=C1)(C)C | C28H39N3O4Si
